US08044052B2
Diethyl 3-cyclopropyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate
To a solution of diethyl 3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate (0.93 g, 1.99 mmol) and cyclopropylboronic acid (0.204 g, 2.38 mmol) in THF (5.6 mL) was added potassium phosphate (1.27 g, 5.99 mmol). The mixture was degassed by purging with argon. PdCl2(dppf2 (162.2 mg, 0.198 mmol) and water (0.11 mL) were added to the reaction mixture and the mixture was degassed again. The reaction was heated at 50° C. for 1 h. The reaction mixture was concentrated and extracted with ethyl acetate three times. The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness. The residue was purified by silica gel column chromatography (20% ethyl acetate in hexane) to give the title compound (0.8 g, 94%). 1H NMR (500 MHz, CDCl3): δ 8.42 (s, 1H), 7.87 (d, J=8.5 Hz, 1H), 6.96 (d, J=9 Hz, 1H), 6.90 (s, 1H), 6.86 (s, 1H), 6.73 (s, 1H),), 4.02 (m, 4H), 3.14 (s, 1H), 3.10 (s, 1H), 1.87 (m, 1H), 1.24 (m, 6H), 0.96 (d, J=8.5 Hz, 2H), 0.69 (d, J=5 Hz, 2H); m/z (430.0, M+ H+).

reactant | diethyl 3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate | 1.99 mmol, 0.93 g | BrC=1C=C(CP(OCC)(OCC)=O)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C17H18BrF3NO4P
reactant | cyclopropylboronic acid | 2.38 mmol, 0.204 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 5.99 mmol, 1.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | THF | 5.6 mL | C1CCOC1 | C4H8O
product | Diethyl 3-cyclopropyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate | 0.8 g, 94% | C1(CC1)C=1C=C(CP(OCC)(OCC)=O)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C20H23F3NO4P
